US04518597
6-[4-(3,4-Dimethoxy-phenylmercapto)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-diethyl-4H-3,1-benzoxazin-2-one and 3,4-dimethoxy-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-diethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(CC)CC)C1 | C16H22ClNO3
reactant | 3,4-dimethoxy-thiophenol | COC=1C=C(C=CC1OC)S | C8H10O2S
product | 6-[4-(3,4-Dimethoxy-phenylmercapto)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one | COC=1C=C(C=CC1OC)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(CC)CC)C1 | C24H31NO5S
